US04978699
The acetic acid salt of N-(2,2,6,6-tetramethyl-4-piperidinyl)tetrachlorophthalamic acid was prepared by refluxing 7.8 grams (0.05 mole) of 4-amino-2,2,6,6-tetramethylpiperidine, 14.3 grams (0.05 mole) of tetrachlorophthalic anhydride in 100 ml of acetic anhydride for 4 hours. The acetic anhydride was stripped off on a rotary evaporator under reduced pressure. The light yellow residue was slurried in 300 ml hexane and filtered. The filter cake was reslurried in fresh hexane and refiltered. The filter cake was air dried for 3 days on a watch glass. The dried product weighed 26.5 grams.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.05 mole, 7.8 grams | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | tetrachlorophthalic anhydride | 0.05 mole, 14.3 grams | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)tetrachlorophthalamic acid | CC1(NC(CC(C1)NC(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)=O)(C)C)C | C17H20Cl4N2O3
